* Z:\home\ostoja\Elektronika\voltmeter_module\simulacije\200_temperature_sensor.asc
V1 15V 0 15
V2 0 -15V 15
XU1 N007 N002 15V -15V N003 TL072
V4 temp 0 PULSE(0 50 0 100m 1u 1u 101m)
B1 N006 0 V=575m + 2.64m * (V(temp) - 25)
R1 N003 N002 {Rf}
R2 N002 N001 {Rin}
V3 N004 0 3
R3 N007 N006 {Rin}
R4 0 N007 {Rf}
XU2 N005 N001 15V -15V N001 TL072
R5 N005 N004 4.7k
R6 0 N005 1k
.tran 102m
.param Rin = 1k
.param Rf = 25k
.lib TL072.cir
.backanno
.end
